US05399708
Preparation of (Z)-2,3-diphenyl-prop-2-en-1-ol
Sodium bis-(2-methoxyethoxy)aluminum hydride (70% in toluene) (Vitride®, 536 g, 1.86 mol) was diluted with 850 mL of toluene and the solution was cooled to -10° C. under a nitrogen atmosphere. A 170 g (0.74 mol) sample of Z-2,3-diphenyl propenoic acid was added portionwise to the Vitride solution while maintaining the temperature of the reaction mixture below 10° C. The resulting mixture was stirred at 0°-5° C. until thin layer chromatography indicated total consumption of the carboxylic acid (1.5 hours). A 1.7 L sample of n-butanol was added slowly at about 25° C. until the exotherm and foaming subsided. The speed of addition of the butanol was increased as the exotherm and-foaming stabilized. The pH of the resulting cloudy mixture was adjusted from 11 to 3.5-4.0 with 1.66 L of 3N aqueous HCl. The layers were separated. The organic layer was washed two times with water and dried (Na2SO4). The mixture was filtered and the drying agent was washed with 1:1 n-butanol:toluene (500 mL). The filtrate was evaporated in vacuo to give 170 g of an amber oil which crystallized on the addition of 50 mL of toluene and 510 mL of heptane. The solid precipitate was collected, washed with heptane, and dried to a constant weight under vacuum at 40° C.

reactant | Sodium bis-(2-methoxyethoxy)aluminum hydride | 1.86 mol, 536 g | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | Z-2,3-diphenyl propenoic acid | C1(=CC=CC=C1)/C(/C(=O)O)=C/C1=CC=CC=C1 | C15H12O2
reactant | Vitride | COCCO[AlH2-]OCCOC.[Na+]
solvent | toluene | 850 mL | C1(=CC=CC=C1)C | C7H8
product | (Z)-2,3-diphenyl-prop-2-en-1-ol | 170 g | C1(=CC=CC=C1)/C(/CO)=C/C1=CC=CC=C1 | C15H14O
